US04678786
6-[2-(3-t-Butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-3[2H]-pyridazinone
6-[2-(3-t-Butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-3-methoxypyridazine was hydrolysed with hydrochloric acid in a manner similar to that described in Example 3 vi). Addition of an excess of potassium carbonate to the cooled solution afforded the title compound which was recrystallised from ethanol/ether, m.p. 159°-161° C.

reactant | 6-[2-(3-t-Butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-3-methoxypyridazine | C(C)(C)(C)NCC(COC1=C(C=CC(=C1)OC)C1=CC=C(N=N1)OC)O | C19H27N3O4
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 6-[2-(3-t-Butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-3[2H]-pyridazinone | C(C)(C)(C)NCC(COC1=C(C=CC(=C1)OC)C=1C=CC(NN1)=O)O | C18H25N3O4
